US04780528
(C) D-Alanyl-α-L-aspartyl-L-phenylalanine methyl ester
In a solvent mixture of 75 ml of methanol and 75 ml of water was dissolved 2.1 g of N-benzyloxycarbonyl-D-alanyl-α-L-aspartyl-L-phenylalanine methyl ester, followed by reduction at room temperature for 4 hours in a hydrogen flow using palladium-carbon as a catalyst. The catalyst was filtered off and the filtrate was concentrated under reduced pressure. The residue was recrystallized from water-acetone. Yield, 1.3 g; m.p., 228°-230° C.

reactant | methanol | 75 ml | CO | CH4O
reactant | N-benzyloxycarbonyl-D-alanyl-α-L-aspartyl-L-phenylalanine methyl ester | 2.1 g | COC([C@@H](NC([C@@H](NC([C@H](NC(=O)OCC1=CC=CC=C1)C)=O)CC(O)=O)=O)CC1=CC=CC=C1)=O | C25H29N3O8
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | [C].[Pd]
solvent | water | 75 ml | O | H2O
product | D-Alanyl-α-L-aspartyl-L-phenylalanine methyl ester | COC([C@@H](NC([C@@H](NC([C@H](N)C)=O)CC(O)=O)=O)CC1=CC=CC=C1)=O | C17H23N3O6
